US05081271
b) 2'-Hydroxy-5'-trimethylsilylacetophenone
A mixture of 321 mg (13.2 mmol) of magnesium, 0.07 ml of ethyl iodide and 1.32 ml of dry tetrahydrofuran was refluxed. After cooling, the mixture was diluted with 3.96 ml of dry tetrahydrofuran and refluxed. To the mixture was added dropwise a solution 4.0 g of crude 2-(2-trimethylsilyloxy-5-bromophenyl)-2-methyl-1,3-dioxolane, obtained as above, in 9.6 ml of tetrahydrofuran and the reaction mixture was refluxed for 2 hours. After cooling, 1.68 ml (13.2 mmol) of trimethylsilyl chloride was added and refluxed for 3 hours. Water was added to the reaction mixture. The mixture was extracted with ether. The extract was washed with water and sat.aq.NaCl, dried over anhyd.Na2SO4 and evaporated. To the residue was added 72 ml of acetone, 10.8 ml (600 mmol) of water and 0.46 g (1.8 mmol) of PPTS. The mixture was refluxed for 3 hours and evaporated. The residue was dissolved in ether. The solution was washed with water, aqueous sodium bicarbonate solution and sat.aq.NaCl, dried over anhyd.Na2SO4 and evaporated. The residue was purified by column chromatography on silica gel [eluent: n-hexane-AcOEt (20:1)] to 1.66 g of pale yellow liquid (yield 67%).

reactant | magnesium | 13.2 mmol, 321 mg | [Mg] | Mg
reactant | ethyl iodide | 0.07 ml | C(C)I | C2H5I
reactant | 2-(2-trimethylsilyloxy-5-bromophenyl)-2-methyl-1,3-dioxolane | 4.0 g | C[Si](OC1=C(C=C(C=C1)Br)C1(OCCO1)C)(C)C | C13H19BrO3Si
reactant | trimethylsilyl chloride | 13.2 mmol, 1.68 ml | C[Si](C)(C)Cl | C3H9ClSi
reactant | PPTS | 1.8 mmol, 0.46 g | CC1=CC=C(C=C1)S(=O)(=O)[O-].C1=CC=[NH+]C=C1
solvent | tetrahydrofuran | 3.96 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 9.6 ml | O1CCCC1 | C4H8O
solvent | n-hexane AcOEt | CCCCCC.CCOC(=O)C
solvent | tetrahydrofuran | 1.32 ml | O1CCCC1 | C4H8O
solvent | acetone | 72 ml | CC(=O)C | C3H6O
solvent | Water | O | H2O
solvent | water | 600 mmol, 10.8 ml | O | H2O
product | 2'-Hydroxy-5'-trimethylsilylacetophenone | 1.66 g, yield 67% | OC1=C(C=C(C=C1)[Si](C)(C)C)C(C)=O | C11H16O2Si
